US07501518B2
A mixture of 3,3′-dimethyl-1′-[1-(2-nitro-benzenesulfonyl)-azetidin-3-ylmethyl]-1′,2′,3′4′,5′,6′-hexahydro-[2,2′;6′,2″]terpyridine (168 mg, 0.322 mmol), thiophenol (0.3 mL), K2CO3 (500 mg) in CH3CN (5 mL) were stirred at room temperature for 17 hours. The volatiles were removed under reduced pressure and saturated NaHCO3 (15 mL) was added and the mixture was extracted with CH2Cl2 (3×30 mL). The combined organic extracts were dried (MgSO4), filtered and concentrated. The crude material was subjected to column chromatography on silica gel (10:1:0.1 CH2Cl2:CH3OH:NH4OH; then 10:1:0.5) to provide 1′-azetidin-3-ylmethyl-1′,2′,3′4′,5′,6′-hexahydro-[2,2′;6′,2″]terpyridine (74 mg, 80% pure by LC/MS).

reactant | 3,3′-dimethyl-1′-[1-(2-nitro-benzenesulfonyl)-azetidin-3-ylmethyl]-1′,2′,3′4′,5′,6′-hexahydro-[2,2′;6′,2″]terpyridine | 0.322 mmol, 168 mg | CC=1C(=NC=CC1)C1N(C(CCC1C)C1=NC=CC=C1)CC1CN(C1)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C27H31N5O4S
reactant | thiophenol | 0.3 mL | C1(=CC=CC=C1)S | C6H6S
reactant | K2CO3 | 500 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | CH3CN | 5 mL | CC#N | C2H3N
product | 1′-azetidin-3-ylmethyl-1′,2′,3′4′,5′,6′-hexahydro-[2,2′;6′,2″]terpyridine | 74 mg, 80% | N1CC(C1)CN1C(CCCC1C1=NC=CC=C1)C1=NC=CC=C1 | C19H24N4
